US08304419B2
Step D: 3-[(6-amino-2-fluoro-3-methylphenyl)oxy]-5-chlorobenzonitrile
Sodium hydrosulfite (10.2 g, 58.7 mmol) dissolved in water (66 ml) was added dropwise to a vigorously stirred solution of 3-chloro-5-[(2-fluoro-3-methyl-6-nitrophenyl)oxy]benzonitrile (3.0 g, 9.78 mmol) dissolved in THF (33 mL). The reaction was stirred for 1 h then EtOAc (100 mL) was added and the layers were separated. The aqueous layer was extracted with EtOAc (2×50 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated to afford the title compound (2.5 g, 92%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.68 (d, 1H), 7.26 (dd, 1H), 7.16 (t, 1H), 6.85 (t, 1H), 6.51 (dd, 1H), 5.17 (d, 2H), 2.06 (d, 3H) MS: m/z 277.2 (M+1).

reactant | Sodium hydrosulfite | 58.7 mmol, 10.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 3-chloro-5-[(2-fluoro-3-methyl-6-nitrophenyl)oxy]benzonitrile | 9.78 mmol, 3.0 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1[N+](=O)[O-])C)F | C14H8ClFN2O3
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 66 ml | O | H2O
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | 3-[(6-amino-2-fluoro-3-methylphenyl)oxy]-5-chlorobenzonitrile | 2.5 g, 92% | NC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)Cl)F)C | C14H10ClFN2O
